US08497264B2
A dry 100 L glass jacketed reactor equipped with an addition funnel, reflux condenser, solids addition system and temperature probe was charged with 2,5-dibromobenzoic acid (2685 g, 9.6 mol) and copper (I) triflate toluene complex (2:1, 50.0 g, 0.2 mol). Toluene (30 L) and EtOAc (20 mL) were then charged, followed by 2-methoxy-4-fluorophenol (1500 g, 10.6 mol). With vigorous stirring cesium carbonate (6258 g, 19.2 mol) was added in portions. The mixture was heated to 90° C. for 4 hours. The mixture was cooled to 35° C. and water (15 L) was added. After 15 minutes of stirring the phases were separated and the aqueous phase was washed with toluene (7.5 L). With stirring, EtOAc (15.0 L) was added to the aqueous phase, followed by 6 M HCl (5.6 L) keeping the internal temperature below 30° C. The layers were separated and the organics were dried over magnesium sulfate. Filtration through a pad of celite and concentration provided a solid that was reslurried in 915 mL of EtAOc and 9.2 L of heptanes. Stirring was continued for 1 hour before the solids were filtered and washed with heptanes. Drying provided 2560 g of 5-bromo-2-(2-fluoro-4-methoxyphenoxy)benzoic acid as a cream colored solid.

reactant | 2,5-dibromobenzoic acid | 9.6 mol, 2685 g | BrC1=C(C(=O)O)C=C(C=C1)Br | C7H4Br2O2
reactant | Toluene | 30 L | C1(=CC=CC=C1)C | C7H8
reactant | 2-methoxy-4-fluorophenol | 10.6 mol, 1500 g | COC1=C(C=CC(=C1)F)O | C7H7FO2
reactant | cesium carbonate | 19.2 mol, 6258 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 15 L | O | H2O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 5-bromo-2-(2-fluoro-4-methoxyphenoxy)benzoic acid | 2560 g | BrC=1C=CC(=C(C(=O)O)C1)OC1=C(C=C(C=C1)OC)F | C14H10BrFO4
